US07985885B2
To a 1 L three-necked flask fitted with a mechanical stirrer were added 16.7 g (73.0 mmol) of periodic acid and 525 ml of sulfuric acid. After periodic acid was dissolved, 36.4 g (219 mmol) of potassium iodide was added portionwise. The content was cooled to a temperature of −30° C. and 34.5 g (146 mmol) of 1,4-dibromobenzene was added over a period of 5 minutes. The resulting mixture was stirred at −30 to −20° C. for 36 hours. After the reaction mixture was poured into ice (2 kg), the whole was filtrated and a solid was taken out. The solid was dissolved in chloroform, the solution was washed with a 5% aqueous sodium hydroxide solution and water, and the organic phase was dried over anhydrous magnesium sulfate. After concentration under reduced pressure, the residue was recrystallized from chloroform to obtain white crystals of 1,4-dibromo-2,5-diiodobenzene (36.0 g, yield 50%).

reactant | periodic acid | 73.0 mmol, 16.7 g | I(=O)(=O)(=O)O | HIO4
reactant | sulfuric acid | 525 ml | S(O)(O)(=O)=O | H2O4S
reactant | potassium iodide | 219 mmol, 36.4 g | [I-].[K+]
reactant | 1,4-dibromobenzene | 146 mmol, 34.5 g | BrC1=CC=C(C=C1)Br | C6H4Br2
product | 1,4-dibromo-2,5-diiodobenzene | 36.0 g, yield 50% | BrC1=C(C=C(C(=C1)I)Br)I | C6H2Br2I2
